US05703017
Methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate
9.6 g (50 mmol) of methyl 3-phenyl-2,3-epoxybutyrate are dissolved in 150 ml of benzyl alcohol, and 0.5 ml of concentrated sulfuric acid is added. Stirring is carried for 6 hours at 50° C. and the mixture is allowed to cool to room temperature. After neutralization with sodium bicarbonate solution, the excess benzyl alcohol is distilled off under greatly reduced pressure 0 and the residue is purified by flash chromatography over silica gel using 9:1 n-hexane/ethyl acetate. After the solvent has been distilled off, 6.5 g of a colorless oil remain.

reactant | methyl 3-phenyl-2,3-epoxybutyrate | 50 mmol, 9.6 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C | C11H12O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzyl alcohol | 150 ml | C(C1=CC=CC=C1)O | C7H8O
product | Methyl 3-benzyloxy-3-phenyl-2-hydroxybutyrate | C(C1=CC=CC=C1)OC(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C18H20O4
